* ADG5412 SPICE Macro-model
* Generic Desc:
* Developed by: MPorley / ADGT
* Revision History: 1.0 (05/2017)
* Copyright 2017 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* Begin Notes:
* The model will work on Vdd/Vss from +12V single supply and +/-15V dual supply.
* The model will give parametric specifications at +/-15V only. Please see datasheet page 3.
*  
* Not Modeled:
*
* Parameters modeled include:
*	On Resistance
*	Ton and Toff
*	Off Isolation
*	Crosstalk
*	Supply Currents: Iss/Idd/IL
*   Cs/Cd Off
*   Bandwidth
*   Charge Injection
*
* Connections
*      1  = IN1
*      2  = D1
*      3  = S1
*      4  = VSS
*      5  = GND
*      6  = S4
*      7  = D4
*      8  = IN4
*      9  = IN3
*      10 = D3
*      11 = S3
*      12 = NIC
*      13 = VDD
*      14 = S2
*      15 = D2
*      16 = IN2
*****************

.SUBCKT ADG5412 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16

.MODEL VON VSWITCH(Von=5 Voff=0.8 Ron=0.001 Roff=1000000000000)
.MODEL VOFF VSWITCH(Von=0.8 Voff=5 Ron=0.001 Roff=1000000000000)
.MODEL VEN VSWITCH(Von=5 Voff=0.8 Ron=170000 Roff=80000)
.MODEL DCLAMP D(IS=1E-15 IBV=1E-13)

* TON/TOFF
S6 104 115 104 5 VEN
Ech1 104 5 VALUE = { IF(V(1)>=2, 5 , 0.8 ) }
eV8A 115A 5 115 5 1
C2 115 5 1e-012
S1 18 17 115A 5 VON

R5 51 2 8
R4 109 26 0.001
EV1 26 5 VALUE = { IF (((V(18)-V(2))>0) & ((V(18)-V(2))<=14),0.056*(V(2)-V(18))*(V(2)-V(18)), 0) }
R3 109 122 0.001
EV7 122 5 VALUE = { IF (((V(18)-V(2))<0) & ((V(18)-V(2))<-13.5) ,11+((V(2)-V(18)-13.5)*(-0.5)), 0) }
R2 109 110 0.001
EV6 110 5 VALUE = { IF (((V(18)-V(2))>0) & ((V(18)-V(2))>14),((23-((V(18)-V(2)-13)*1.8))*0.52), 0) }
R1 109 117 0.001
EV5 117 5 VALUE = { IF (((V(18)-V(2))<0) & ((V(18)-V(2))>=-13.5),0.06*(V(18)-V(2))*(V(18)-V(2)), 0) }
RINA	109 5	1G
EOUTA	51 6A	POLY(2) (109,5) (3A,5) 0 0 0 0 0.999/1000
FCOPYA	5 3A	VSENSEA 1
RSENSORA 3A 5	1K
VSENSEA	6A 18	0

*CS OFF/BANDWIDTH
C1_S1 2 5 15e-012
C1_D1 3 5 15e-012

*CHARGE INJECTION
R26 52 53 0.001
Ech8 53 5 VALUE = { IF(V(115A)<4, 0 , 5 ) }
R25 52 33 0.001
Ech7 33 5 VALUE = { IF(V(1)>=2, 5 , 0 ) }
S2 115A 54 52 5 VOFF
R28 55 57 0.001
Ech10 57 5 VALUE = { IF(V(115A)<4, 0 , 5 ) }
R27 55 56 0.001
Ech9 56 5 VALUE = { IF(V(1)>=2, 5 , 0 ) }
S7 115A 58 55 5 VOFF
C4A 54 2 9e-011
C4 58 3 9e-011

*PROTECTION DIODES
D4 4 2 DCLAMP
D3 2 13 DCLAMP
D2 4 3 DCLAMP
D1 3 13 DCLAMP

*ON/OFF LEAKAGE CURRENT
R8 3 5 1000000000
Ech6 113 5 VALUE = { IF(V(1)>=2, 0.5, 0.05 ) }
gI3 3 5 113 5 1e-009
R7 2 5 1000000000
Ech5 25 5 VALUE = { IF(V(1)>=2, 0.5, 0.05 ) }
gI4 2 5 25 5 1e-009

*IDD/ISS
I2 13 5 45e-006
I1 4 5 1e-009

*OFF ISOLATION
C3 3 2 2e-012

*CROSSTALK
C3_S1S4 3 6 1e-012
C3_S1S3 3 11 1e-012
C3_S4S3 6 11 1e-012
C3_S3S2 11 14 1e-012
C3_S2S1 14 3 1e-012
C3_S2S4 14 6 1e-012

*SUPPLY REQUIREMENT
S5 17 3 27 5 VON
Ech3 107 5 VALUE = { IF((V(4)>=-0.5 & (V(13)<=40 & V(13)>=9)), 5 , 0.01 ) }
S4 107 27 107 5 VON
Ech2 112 5 VALUE = { IF((V(4)<=-0.5 & V(4)>=-22) & (V(13)<=22 & V(13)>=9), 5 , 0.01 ) }
S3 112 27 112 5 VON

** SWITCH 2 **

R12 32 15 8
R11 28 44 0.001
EV26 44 5 VALUE = { IF (((V(20)-V(15))>0) & ((V(20)-V(15))<=14),0.056*(V(15)-V(20))*(V(15)-V(20)), 0) }
R10 28 46 0.001
EV25 46 5 VALUE = { IF (((V(20)-V(15))<0) & ((V(20)-V(15))<-13.5),11+((V(15)-V(20)-13.5)*(-0.5)), 0) }
R9 28 45 0.001
EV3 45 5 VALUE = { IF (((V(20)-V(15))>0) & ((V(20)-V(15))>14),((23-((V(20)-V(15)-13)*1.8))*0.52), 0) }
R6 28 43 0.001 
EV2 43 5 VALUE = { IF (((V(20)-V(15))<0) & ((V(20)-V(15))>=-13.5),0.06*(V(20)-V(15))*(V(20)-V(15)), 0) }
RINB	28 5	1G
EOUTB	32 6B	POLY(2) (28,5) (3B,5) 0 0 0 0 0.999/1000
FCOPYB	5 3B	VSENSEB 1
RSENSORB 3B 5	1K
VSENSEB	6B 20	0

*TON/TOFF
eV8B 85A 5 85 5 1
S25 98 85 98 5 VEN
Ech28 98 5 VALUE = { IF(V(16)>=2, 5 , 0.8 ) }
C17 85 5 1e-012
S21 20 19 85A 5 VON

*CHARGE INJECTION
R34 70 72 0.001
Ech32 72 5 VALUE = { IF(V(85A)<4, 0 , 5 ) }
R33 70 71 0.001
Ech31 71 5 VALUE = { IF(V(16)>=2, 5 , 0 ) }
S9 85A 74 70 5 VOFF
R30 61 63 0.001
Ech12 63 5 VALUE = { IF(V(85A)<4, 0 , 5 ) }
R29 61 62 0.001
Ech11 62 5 VALUE = { IF(V(16)>=2, 5 , 0 ) }
S8 85A 73 61 5 VOFF
C19 74 14 9e-011
C19A 73 15 9e-011

* PROTECTION DIODES
D8 4 15 DCLAMP
D7 15 13 DCLAMP
D6 4 14 DCLAMP
D5 14 13 DCLAMP

*ON/OFF LEAKAGE CURRENT
R40 14 5 1000000000 
Ech30 103 5 VALUE = { IF(V(16)>=2, 0.05, 0.1 ) }
gI20 14 5 103 5 1e-009
R39 15 5 1000000000 
Ech29 102 5 VALUE = { IF(V(16)>=2, 0.05, 0.1 ) }
gI19 15 5 102 5 1e-009

* OFF ISOLATION
C18 14 15 2e-012

*CD/CS OFF/BANDWIDTH
C20_D2 15 5 15e-012
C20_S2 14 5 15e-012

* SUPPLY REQUIREMENT
S24 19 14 87 5 VON
Ech26 88 5 VALUE = { IF((V(4)>=-0.5 & (V(13)<=40 & V(13)>=9)), 5 , 0.01 ) }
S23 88 87 88 5 VON
Ech25 86 5 VALUE = { IF((V(4)<=-0.5 & V(4)>=-22) & (V(13)<=22 & V(13)>=9), 5 , 0.01 ) }
S22 86 87 86 5 VON

** SWITCH 3 **

R17 36 10 8
R16 29 35 0.001
EV16 35 5 VALUE = { IF (((V(22)-V(10))>0) & ((V(22)-V(10))<=14),0.056*(V(10)-V(22))*(V(10)-V(22)), 0) }
R15 29 30 0.001
EV15 30 5 VALUE = { IF (((V(22)-V(10))<0) & ((V(22)-V(10))<-13.5),11+((V(10)-V(22)-13.5)*(-0.5)), 0) }
R14 29 31 0.001
EV14 31 5 VALUE = { IF (((V(22)-V(10))>0) & ((V(22)-V(10))>14),((23-((V(22)-V(10)-13)*1.8))*0.52), 0) }
R13 29 42 0.001
EV13 42 5 VALUE = { IF (((V(22)-V(10))<0) & ((V(22)-V(10))>=-13.5),0.06*(V(22)-V(10))*(V(22)-V(10)), 0) }
RINC	29 5	1G
EOUTC	36 6C	POLY(2) (29,5) (3C,5) 0 0 0 0 0.999/1000
FCOPYC	5 3C	VSENSEC 1
RSENSORC 3C 5	1K
VSENSEC	6C 22	0

* CHARGE INJECTION
R38 80 82 0.001
Ech36 82 5 VALUE = { IF(V(47A)<4, 0 , 5 ) }
R37 80 81 0.001
Ech35 81 5 VALUE = { IF(V(9)>=2, 5 , 0 ) }
S26 47A 90 80 5 VOFF
R36 75 77 0.001
Ech34 77 5 VALUE = { IF(V(47A)<4, 0 , 5 ) }
R35 75 76 0.001
Ech33 76 5 VALUE = { IF(V(9)>=2, 5 , 0 ) }
S10 47A 89 75 5 VOFF
C11A 89 11 9e-011
C11 90 10 9e-011

* PROTECTION DIODES
D12 4 10 DCLAMP
D11 10 13 DCLAMP
D10 4 11 DCLAMP
D9 11 13 DCLAMP

*ON/OFF LEAKAGE CURRENT
R24 11 5 1000000000
Ech18 65 5 VALUE = { IF(V(9)>=2, 0.5, 0.05 ) }
gI12 11 5 65 5 1e-009
R23 10 5 1000000000
Ech17 64 5 VALUE = { IF(V(9)>=2, 0.5, 0.05 ) }
gI11 10 5 64 5 1e-009

*CS OFF/BANDWIDTH
C12_D3 10 5 15e-012
C12_S3 11 5 15e-012

* OFF ISOLATION
C10 11 10 2e-012

* TON/TOFF
eV8C 47A 5 47 5 1
S15 60 47 60 5 VEN
Ech16 60 5 VALUE = { IF(V(9)>=2, 5 , 0.8 ) }
C9 47 5 1e-012
S11 22 21 47A 5 VON

* SUPPLY REQUIREMENT
S14 21 11 49 5 VON
Ech14 50 5 VALUE = { IF((V(4)>=-0.5 & (V(13)<=40 & V(13)>=9)), 5 , 0.01 ) }
S13 50 49 50 5 VON
Ech13 48 5 VALUE = { IF((V(4)<=-0.5 & V(4)>=-22) & (V(13)<=22 & V(13)>=9), 5 , 0.01 ) }
S12 48 49 48 5 VON

** SWITCH 4 **

R22 39 7 8
R21 34 40 0.001
EV20 40 5 VALUE = { IF (((V(24)-V(7))>0) & ((V(24)-V(7))<=14),0.056*(V(7)-V(24))*(V(7)-V(24)), 0) }
R20 34 37 0.001
EV19 37 5 VALUE = { IF (((V(24)-V(7))<0) & ((V(24)-V(7))<-13.5),11+((V(7)-V(24)-13.5)*(-0.5)), 0) }
R19 34 38 0.001
EV18 38 5 VALUE = { IF (((V(24)-V(7))>0) & ((V(24)-V(7))>14),((23-((V(24)-V(7)-13)*1.8))*0.52), 0) }
R18 34 41 0.001
EV17 41 5 VALUE = { IF (((V(24)-V(7))<0) & ((V(24)-V(7))>=-13.5),0.06*(V(24)-V(7))*(V(24)-V(7)), 0) }
RIND	34 5	1G
EOUTD	39 6D	POLY(2) (34,5) (3D,5) 0 0 0 0 0.999/1000
FCOPYD	5 3D	VSENSED 1
RSENSORD 3D 5	1K
VSENSED	6D 24	0

* TON/TOFF
eV8D 66A 5 66 5 1
S20 79 66 79 5 VEN
Ech22 79 5 VALUE = { IF(V(8)>=2, 5 , 0.8 ) }
C13 66 5 1e-012
S16 24 23 66A 5 VON

* CHARGE INJECTION
R44 94 96 0.001
Ech40 96 5 VALUE = { IF(V(66A)<4, 0 , 5 ) }
R43 94 95 0.001
Ech39 95 5 VALUE = { IF(V(8)>=2, 5 , 0 ) }
S28 66A 100 94 5 VOFF
R42 91 93 0.001
Ech38 93 5 VALUE = { IF(V(66A)<4, 0 , 5 ) }
R41 91 92 0.001
EBch37 92 5 VALUE = { IF(V(8)>=2, 5 , 0 ) }
S27 66A 99 91 5 VOFF
C6 99 6 9e-011
C15 100 7 9e-011

*PROTECTION DIODES
D16 4 7 DCLAMP
D15 7 13 DCLAMP
D14 4 6 DCLAMP
D13 6 13 DCLAMP

* ON/OFF LEAKAGE CURRENT
R32 6 5 1000000000
Ech24 84 5 VALUE = { IF(V(8)>=2, 0.5, 0.05 ) }
gI16 6 5 84 5 1e-009
R31 7 5 1000000000
Ech23 83 5 VALUE = { IF(V(8)>=2, 0.5, 0.05 ) }
gI15 7 5 83 5 1e-009

* CS OFF/BANDWIDTH
C16_D4 7 5 15e-012
C16_S4 6 5 15e-012

* OFF ISOLATION
C14 6 7 2e-012

* SUPPLY REQUIREMENT
S19 23 6 68 5 VON
Ech20 69 5 VALUE = { IF((V(4)>=-0.5 & (V(13)<=40 & V(13)>=9)), 5 , 0.01 ) }
S18 69 68 69 5 VON
Ech19 67 5 VALUE = { IF((V(4)<=-0.5 & V(4)>=-22) & (V(13)<=22 & V(13)>=9), 5 , 0.01 ) }
S17 67 68 67 5 VON

.ENDS ADG5412